US08026260B2
Intermediate XVI: 4-{[5-(2-methoxyphenyl)-1,3,4-oxadiazol-2-yl]methyl}benzoic acid (Scheme 2)
A solution of tert-butyl 4-{2-[2-(2-methoxybenzoyl)hydrazino]-2-oxoethyl}benzoate (0.1 g, 0.26 mmol) in THF (2.5 mL) was treated with Burgess reagent (0.12 g, 0.52 mmol), sealed and heated to 100° C. for 10 minutes in the microwave. The reaction was evaporated in vacuo and purified by flash chromatography (0-2% methanol/methylene chloride) to give the desired product as a white solid. ESIMS calcd 367.2 (M++H), found 367.1 (M++H).

reactant | tert-butyl 4-{2-[2-(2-methoxybenzoyl)hydrazino]-2-oxoethyl}benzoate | 0.26 mmol, 0.1 g | COC1=C(C(=O)NNC(CC2=CC=C(C(=O)OC(C)(C)C)C=C2)=O)C=CC=C1 | C21H24N2O5
reactant | Burgess reagent | 0.52 mmol, 0.12 g | CC[N+](CC)(CC)S(=O)(=O)N=C([O-])OC | C8H18N2O4S
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 4-{[5-(2-methoxyphenyl)-1,3,4-oxadiazol-2-yl]methyl}benzoic acid | COC1=C(C=CC=C1)C1=NN=C(O1)CC1=CC=C(C(=O)O)C=C1 | C17H14N2O4
